US06156884
Methyl 4-aminomethyl-2-hydroxybenzoate hydrochloride (10.9 g, 50 mmoles) was suspended in anhydrous methanol (200 mL) and di-tert-butyldicarbonate (10.9 g, 50 mmoles) and triethylamine (7.0 mL, 50 mmoles) were added. The solid rapidly dissolved with the slow evolution of gas. The reaction mixture was stirred at room temperature for 18 hours under dry nitrogen, then evaporated to dryness to afford a white amorphous mass. This mass was partitioned between ethyl acetate (200 mL) and water (100 mL). The layers were separated, and the ethyl acetate solution was dried over anhydrous sodium sulfate. The solution was filtered and evaporated to a white solid. This solid was crystallized from ethyl acetate/hexanes, filtered, and dried in vacuo to afford 13.7 g (97% yield) of methyl N-tert-butoxycarbonylaminomethyl--2-hydroxybenzoate (m.p. 95-96° C., open capillary, uncorrected).

reactant | Methyl 4-aminomethyl-2-hydroxybenzoate hydrochloride | 50 mmoles, 10.9 g | Cl.NCC1=CC(=C(C(=O)OC)C=C1)O
reactant | di-tert-butyldicarbonate | 50 mmoles, 10.9 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 50 mmoles, 7.0 mL | C(C)N(CC)CC | C6H15N
solvent | methanol | 200 mL | CO | CH4O
product | methyl N-tert-butoxycarbonylaminomethyl--2-hydroxybenzoate | 13.7 g, 97% yield | C(C)(C)(C)OC(=O)NCC=1C(=C(C(=O)OC)C=CC1)O | C14H19NO5
